US03993646
A mixture of 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2-methyl-2-bromomethylpenam-3-carboxylate (0.54 g.), chloroform (5 cc) and pyridine (0.16 g.) was heated under reflux for 2.5 hours. The reaction mixture was washed with water, dried over magnesium sulfate and then concentrated. The residue was crystallized from ether to yield crystals (0.34 g.) of 2,2,2-trichloroethyl 7-(2-phenylacetamido)-3-methyl-3-cephem-4-carboxylate, m.p. 161°-162° C.

reactant | 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2-methyl-2-bromomethylpenam-3-carboxylate | 0.54 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(CBr)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H18BrCl3N2O4S
reactant | chloroform | 5 cc | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 0.16 g | N1=CC=CC=C1 | C5H5N
product | 2,2,2-trichloroethyl 7-(2-phenylacetamido)-3-methyl-3-cephem-4-carboxylate | 0.34 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H17Cl3N2O4S
